US05834454
A mixture of ethyl 7-(2-hydroxyethoxy)-4-methyl-1H-indole-2-carboxylate (1.10 g, 4.18 mmol), triethylamine (0.93 g, 9.19 mmol) and dichloromethane (30 ml) was cooled to -10° C., after which methanesulfonyl chloride (0.57 g, 5.01 mmol) was added dropwise with stirring at -10° C. After completion of the dropwise addition, the resulting mixture was stirred at -10° C. for another 2 hours and the reaction mixture was poured into ice water, followed by extraction with chloroform (three times). The extract solution was washed successively with a saturated aqueous ammonium chloride solution, a saturated aqueous sodium hydrogen-carbonate solution and a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain ethyl 7-(2-methanesulfonyloxyethoxy)-4-methyl-1H-indole-2-carboxylate. This compound was used in the subsequent reaction without further purification.

reactant | ethyl 7-(2-hydroxyethoxy)-4-methyl-1H-indole-2-carboxylate | 4.18 mmol, 1.10 g | OCCOC=1C=CC(=C2C=C(NC12)C(=O)OCC)C | C14H17NO4
reactant | triethylamine | 9.19 mmol, 0.93 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 5.01 mmol, 0.57 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | ethyl 7-(2-methanesulfonyloxyethoxy)-4-methyl-1H-indole-2-carboxylate | CS(=O)(=O)OCCOC=1C=CC(=C2C=C(NC12)C(=O)OCC)C | C15H19NO6S
